US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid Acetoxymethyl Ester
To a solution of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid (200 mg, 335 μmol) in dry DMF (6 mL) was added bromomethyl acetate (76 mg, 503 μmol), NaI (101 mg, 670 μmol), and 2,6-dimethylpyridine (143 mg, 1.3 mmol) in portions at room temperature. The resulting mixture was stirred at room temperature for 8 hours. Water (12 mL) was added and the mixture was extracted with EtOAc (3×10 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (PE:EtOAc=3:1) to yield the title compound as a white solid (15 mg). LC-MS: 597.7 [M+H]+. 1H NMR (CDCl3, 400 MHz,) δ 2.02 (s, 3H), 3.37 (br, 2H), 4.22 (br, 2H), 4.38 (br, 1H), 5.78-6.02 (m, 2H), 7.15-7.20 (m, 1H), 7.40-7.45 (m, 2H), 7.50-7.91 (m, 7H), 8.15-8.17 (m, 2H).

reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid | 335 μmol, 200 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)C[C@H](C(=O)O)O)F | C25H21ClFN5O5
reactant | bromomethyl acetate | 503 μmol, 76 mg | C(C)(=O)OCBr | C3H5BrO2
reactant | NaI | 670 μmol, 101 mg | [Na+].[I-]
reactant | 2,6-dimethylpyridine | 1.3 mmol, 143 mg | CC1=NC(=CC=C1)C | C7H9N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | Water | 12 mL | O | H2O
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid Acetoxymethyl Ester | 15 mg | C(C)(=O)OCOC([C@@H](CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C28H25ClFN5O7
